US03993637
Preparation of N-cyclohexylacetoacetamide.
A solution of diketene (42 g.) in benzene (74 ml.) is added dropwise with vigorous stirring to a solution of cyclohexylamine (49.6 g.) in benzene (125 ml.). The rate of addition is adjusted so that a gentle reflux is maintained. The benzene is removed under vacuum and the yellow oil crystallizes upon trituation with hexane. A yield of 88.7 g. of product melting at 66°-69° C. is obtained.

reactant | diketene | 42 g | C=C1CC(=O)O1 | C4H4O2
reactant | cyclohexylamine | 49.6 g | C1(CCCCC1)N | C6H13N
solvent | benzene | 74 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
product | N-cyclohexylacetoacetamide | C1(CCCCC1)NC(CC(=O)C)=O | C10H17NO2
